US04167567
To a suspension of 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine (2 g, 0.005 mol) in 15 ml of methylene chloride under nitrogen is added dropwise a solution of p-tolylsulfonyl-isocyanate in 10 ml of methylene chloride over a period of 10 minutes. After complete addition, the resultant suspension is stirred at room temperature for 1 hour. The white solid is filtered, washed with more methylene chloride, and dried giving 2.6 g (87%) of N-[(4-methylphenyl)sulfonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine-1-carboxamide of melting point 253°-255° C. Infrared and mass spectra are consistent with the assigned structure.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | 0.005 mol, 2 g | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | p-tolylsulfonyl-isocyanate | C1(=CC=C(C=C1)S(=O)(=O)N=C=O)C | C8H7NO3S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-methylphenyl)sulfonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine-1-carboxamide | 2.6 g, 87% | CC1=CC=C(C=C1)S(=O)(=O)NC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C29H26F3N5O4S
